US07122547B1
171 mg of 5-chloroanthranilic acid is introduced into 10 ml of dimethylformamide under argon and in a moisture-free environment and mixed in succession with 253 mg of N-methylmorpholine, 266 mg of 5-aminoindazole and 456 mg of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) and stirred for 4 hours at room temperature. After standing overnight, it is mixed with 50 ml of water and extracted with 30 ml of ethyl acetate. The organic phase is washed with water, dried, filtered and concentrated by evaporation. The residue is chromatographed on silica gel with ethyl acetate as an eluant. 266 mg of N-(indazol-5-yl)-5-chloroanthranilic acid amide is obtained.

reactant | 5-chloroanthranilic acid | 171 mg | ClC1=CC=C(C(C(=O)O)=C1)N | C7H6ClNO2
reactant | N-methylmorpholine | 253 mg | CN1CCOCC1 | C5H11NO
reactant | 5-aminoindazole | 266 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 456 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | water | 50 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(indazol-5-yl)-5-chloroanthranilic acid amide | 266 mg | N1N=CC2=CC(=CC=C12)NC(C=1C(N)=CC=C(C1)Cl)=O | C14H11ClN4O
